US07723333B2
3-(2-Aminoethyl)benzonitrile
tert-Butyl [2-(3-cyanophenyl)ethyl]carbamate (0.949 g, 3.853 mmol) was dissolved in DCM (5 mL) and TFA (4 mL) and stirred at rt for 2 h. The mixture was concentrated and redissolved in EtOAc. The mixture was washed with saturated aqueous K2CO3, dried over Na2SO4, filtered and evaporated affording the title compound (0.40 g, 71.7%). 1H NMR (500 MHz, CDCl3): δ 1.18 (bs, 2H), 2.79 (t, 2H), 3.00 (t, 2H), 7.39-7.47 (m, 2H), 7.50-7.53 (m, 2H); 13C NMR (125 MHz, CDCl3): δ 39.81, 43.42, 112.74, 119.17, 129.47, 130.24, 132.57, 133.66, 141.67.

reactant | tert-Butyl [2-(3-cyanophenyl)ethyl]carbamate | 3.853 mmol, 0.949 g | C(#N)C=1C=C(C=CC1)CCNC(OC(C)(C)C)=O | C14H18N2O2
reactant | TFA | 4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-(2-Aminoethyl)benzonitrile | 0.40 g, 71.7% | NCCC=1C=C(C#N)C=CC1 | C9H10N2
